US06248755B1
Step A: 1-N-(1-Benzyl-piperidin-4-yl)-4-fluoro-benzene-1,2-diamine
The title compound was prepared from 750 mg 1-benzyl-4-piperidone, 1.0 g of 4-fluoro-benzene-1,2-diamine and 1.0 g sodium triacetoxyborohydride in 10 mL of THF, using a procedure analogous to that described in Example 95, Step A to provide 70 mg of the title compound as a brown solid.

reactant | 1-benzyl-4-piperidone | 750 mg | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | 4-fluoro-benzene-1,2-diamine | 1.0 g | FC=1C=C(C(=CC1)N)N | C6H7FN2
reactant | sodium triacetoxyborohydride | 1.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-N-(1-Benzyl-piperidin-4-yl)-4-fluoro-benzene-1,2-diamine | 70 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC=1C(=CC(=CC1)F)N | C18H22FN3
